US08580841B2
Step G: Preparation of Sodium 3-(Carboxylatomethyl)-7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indole-3-carboxylate.
In a 500 mL flask was placed ethyl 7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-3-(2-ethoxy-2-oxoethyl)-1,2,3,4-tetrahydrocyclopenta[b]indole-3-carboxylate (24.1 g, 43.2 mmol) in isopropanol (275 mL). Sodium hydroxide solution (20%, 129.5 mL, 130 mmol) was added and the mixture was heated at 100° C. (bath) for 2.5 h. The mixture was cooled, filtered, washed with isopropanol, and dried overnight under vacuum at 40° C. to give the title compound (17.5 g). LCMS m/z=502.6 [M−2Na+3H]+.

reactant | ethyl 7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-3-(2-ethoxy-2-oxoethyl)-1,2,3,4-tetrahydrocyclopenta[b]indole-3-carboxylate | 43.2 mmol, 24.1 g | C1(CCCC1)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)(C(=O)OCC)CC(=O)OCC)C=C1)C(F)(F)F | C31H34F3NO5
reactant | Sodium hydroxide | 130 mmol, 129.5 mL | [OH-].[Na+]
solvent | isopropanol | 275 mL | C(C)(C)O | C3H8O
product | Sodium 3-(Carboxylatomethyl)-7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indole-3-carboxylate | 17.5 g | C(=O)([O-])CC1(CCC2=C1NC=1C=CC(=CC21)OCC2=CC(=C(C=C2)C2CCCC2)C(F)(F)F)C(=O)[O-].[Na+].[Na+] | InChI=1S/C27H26F3NO5.2Na/c28-27(29,30)21-11-15(5-7-18(21)16-3-1-2-4-16)14-36-17-6-8-22-20(12-17)19-9-10-26(25(34)35,13-23(32)33)24(19)31-22;;/h5-8,11-12,16,31H,1-4,9-10,13-14H2,(H,32,33)(H,34,35);;/q;2*+1/p-2
